US06504058B1
Preparation of (R)-1-(2,5-difluorophenoxy)-2-propanamine hydrochloride
To 5.4 g (R)-2-[2-(2,5-difluorophenoxy)-1-methylethyl]-1H-isoindole-1,3(2H)-dione in 250 mL absolute ethanol was added 6.0 mL hydrazine. The solution was heated to reflux for 100 minutes. A white precipitate formed. The reaction was allowed to cool to room temperature and was filtered to remove the precipitate. Concentration of the filtrate gave a gummy paste which was taken up in ethyl acetate and washed once with brine and twice with 100 mL 1N hydrochloric acid. The combined acidic aqueous layers were basified with 1N sodium hydroxide and extracted three times with ethyl acetate. The combined organic extracts were dried and the solvent was removed to afford an oil. The oil was diluted with dry ether and 30 mL of 1N hydrochloric acid in ether was added. The resulting white precipitate was collected by filtration and dried to give the title compound of Step B as a white powder: mp 127-130° C., 1H NMR (Me2SO-d6) δ1.30 (d, 3H), 3.60 (m, 1H), 4.22 (m, 2H), 6.80 (m, 1H), 7.22 (m, 2H), 8.30 (br s, 3H).

reactant | (R)-2-[2-(2,5-difluorophenoxy)-1-methylethyl]-1H-isoindole-1,3(2H)-dione | 5.4 g | FC1=C(OC[C@@H](C)N2C(C3=CC=CC=C3C2=O)=O)C=C(C=C1)F | C17H13F2NO3
reactant | hydrazine | 6.0 mL | NN | H4N2
reactant | hydrochloric acid | 1N, 30 mL | Cl | ClH
solvent | ethanol | 250 mL | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ether | CCOCC | C4H10O
product | (R)-1-(2,5-difluorophenoxy)-2-propanamine hydrochloride | Cl.FC1=C(OC[C@@H](C)N)C=C(C=C1)F | InChI=1S/C9H11F2NO.ClH/c1-6(12)5-13-9-4-7(10)2-3-8(9)11;/h2-4,6H,5,12H2,1H3;1H/t6-;/m1./s1
